US06440965B1
A solution of 2-chloro-5-(4-methylbenzyl)-4-(4-methylpiperazino)pyrimidine (1.46 g, cc mmoles), 2-propanol (25 mL) and 2-(2-aminoethoxy)ethanol (4.79 g, 46 mmoles) was heated in a stainless steel reaction vessel at 155° C. for 16 hours. The vessel contents were spin evaporated in vacuo at 60° C. to give a residue that was partitioned between dichloromethane (35 mL) and water (150 mL). The dichloromethane phase was separated and washed with water (150 mL), and finally with brine (100 mL). The solution was dried over sodium sulfate, filtered, and spin evaporated in vacuo to give a syrup. The syrup was dissolved in 2-propanol (20 mL), 37% hydrochloric acid (15 drops) was added, and the solution was spin evaporated in vacuo. The residue was crystallized from methanol (2 mL) to give 0.34 g of 2-(2-hydroxyethoxy)ethylamino)-5-(4-methylbenzyl)-4-(4-methylpiperazino)pyrimidine as carmel colored crystals, mp 207-209° C.

reactant | 2-chloro-5-(4-methylbenzyl)-4-(4-methylpiperazino)pyrimidine | 1.46 g | ClC1=NC=C(C(=N1)N1CCN(CC1)C)CC1=CC=C(C=C1)C | C17H21ClN4
reactant | 2-(2-aminoethoxy)ethanol | 46 mmoles, 4.79 g | NCCOCCO | C4H11NO2
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
catalyst | hydrochloric acid | 15 drops | Cl | ClH
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
product | 5-(4-methylbenzyl)-4-(4-methylpiperazino)pyrimidine | CC1=CC=C(CC=2C(=NC=NC2)N2CCN(CC2)C)C=C1 | C17H22N4
